US07888364B2
4 g of 4-(2-hydroxyethylthio)benzonitrile was reacted via Procedure R to yield 4-(2-hydroxyethylsulfonyl)benzonitrile. 3.0 g of triphenylphosphine was added to a solution of 2 g of 4-(2-hydroxyethylsulfonyl)benzonitrile and 4.7 g of carbon tetrabromide in dichloromethane at 0° C. The reaction mixture was allowed to warm to room temperature and stirred for 1 h. The mixture was diluted with dichloromethane, washed with H2O, dried (MgSO4) and evaporated. Purified by silica gel chromatography (0-70% ethyl acetate/hexane) to afford 4-(2-bromoethylsulfonyl)benzonitrile. 250 mg of 4-(2-bromoethylsulfonyl)benzonitrile was used in Procedure P with imidazole to give 4-(2-(1H-imidazol-1-yl)ethylsulfonyl)benzonitrile. 300 mg of 4-(2-(1H-imidazol-1-yl)ethylsulfonyl)benzonitrile was reacted via Procedure T to give 4-(2-(1H-imidazol-1-yl)ethylsulfonyl)benzoic acid. 60 mg of 4-chloro-3-(pyridin-2-yl)aniline was coupled to 4-(2-(1H-imidazol-1-yl)ethylsulfonyl)benzoic acid via Procedure G. The product was purified on reverse phase HPLC to yield 4-(2-(1H-imidazol-1-yl)ethylsulfonyl)-N-(4-chloro-3-(pyridin-2-yl)phenyl)benzamide. MS (Q1) 467.1 (M)+.

reactant | triphenylphosphine | 3.0 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 4-(2-hydroxyethylsulfonyl)benzonitrile | 2 g | OCCS(=O)(=O)C1=CC=C(C#N)C=C1 | C9H9NO3S
reactant | carbon tetrabromide | 4.7 g | C(Br)(Br)(Br)Br | CBr4
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-(2-bromoethylsulfonyl)benzonitrile | BrCCS(=O)(=O)C1=CC=C(C#N)C=C1 | C9H8BrNO2S
